US05142092
a) 3-Chloro-4-trifluoromethoxy-benzamide
242.5 g (1 mole) of 3-chloro-4-trifluoromethoxybenzoyl fluoride were allowed to drip into 500 ml of 25% strength by weight aqueous ammonia solution with ice cooling, the mixture was then stirred for a further 30 minutes and the precipitate which deposited was filtered off with suction. 227 g of product having a melting point of 98° C. were obtained. This corresponds to a crude yield of 95% of theory.

reactant | 3-chloro-4-trifluoromethoxybenzoyl fluoride | 1 mole, 242.5 g | ClC=1C=C(C(=O)F)C=CC1OC(F)(F)F | C8H3ClF4O2
reactant | ammonia | N | H3N
product | 3-Chloro-4-trifluoromethoxy-benzamide | ClC=1C=C(C(=O)N)C=CC1OC(F)(F)F | C8H5ClF3NO2
